US08278312B2
3.1 500 mg of 2-[3-(2,6-dichlorophenylamino)imidazo[1,2-a]pyrimidin-2-yl]-3,5-dimethoxybenzoic acid, 144 mg of tert-butyl carbazate and 250 mg of DAPECl are dissolved in 1 ml of DMF and stirred at RT for 16 h. The reaction mixture is poured into water, the precipitate formed is filtered off and dried. Purification by column chromatography (ethyl acetate/methanol) gives 120 mg (19%) of tert-butyl N′-{2-[3-(2,6-dichlorophenylamino)-imidazo[1,2-a]pyrimidin-2-yl]-3,5-dimethoxybenzoyl}hydrazinecarboxylate as solid; MS-FAB (M+H+)=574.2; Rf (polar method): 1.80 min.

reactant | 2-[3-(2,6-dichlorophenylamino)imidazo[1,2-a]pyrimidin-2-yl]-3,5-dimethoxybenzoic acid | ClC1=C(C(=CC=C1)Cl)NC1=C(N=C2N1C=CC=N2)C2=C(C(=O)O)C=C(C=C2OC)OC | C21H16Cl2N4O4
reactant | tert-butyl carbazate | 144 mg | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | water | O | H2O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | tert-butyl N′-{2-[3-(2,6-dichlorophenylamino)-imidazo[1,2-a]pyrimidin-2-yl]-3,5-dimethoxybenzoyl}hydrazinecarboxylate | 120 mg, 19% | ClC1=C(C(=CC=C1)Cl)NC1=C(N=C2N1C=CC=N2)C2=C(C(=O)NNC(=O)OC(C)(C)C)C=C(C=C2OC)OC | C26H26Cl2N6O5
